US06518268B1
In an argon atmosphere, the thus obtained N-(4-bromobenzyl)diphenylamine (440 mg, 1.30 mmol) was dissolved in tetrahydrofuran (6 mL) and cooled to −78° C. A 1.6 M n-butyl lithium hexane solution (1.3 mL, 2.0 mmol) was added thereto, and, 5 minutes thereafter, dimethylformamide (0.20 mL, 2.6 mmol) was further added thereto, followed by stirring for 5 minutes. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (9:1 hexane/ethyl acetate) to obtain 4-(N,N-diphenylaminomethyl)benzaldehyde (213 mg, 57%).

reactant | N-(4-bromobenzyl)diphenylamine | 1.30 mmol, 440 mg | BrC1=CC=C(CN(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | C19H16BrN
reactant | n-butyl lithium hexane | 2.0 mmol, 1.6 M, 1.3 mL | CCCCCC.C(CCC)[Li]
reactant | dimethylformamide | 2.6 mmol, 0.20 mL | CN(C=O)C | C3H7NO
reactant | water | O | H2O
solvent | tetrahydrofuran | 6 mL | O1CCCC1 | C4H8O
product | 4-(N,N-diphenylaminomethyl)benzaldehyde | 213 mg, 57% | C1(=CC=CC=C1)N(C1=CC=CC=C1)CC1=CC=C(C=O)C=C1 | C20H17NO
